US05302724
Preparation of N-[[(3,4-dichlorophenyl)amino]carbonyl]-2-thiophenesulfonamide
2-Thiophenesulfonamide (1.55 g, 9.5 mmole) was combined with 3,4-dichlorophenyl isocyanate (1.79 g, 9.5 mmole), 1N NaOH (9.5 ml) and acetone (25 ml) followed by 1N HCl (9.5 ml) using the method of Example 4B to give the named product (1.3 g).

reactant | 2-Thiophenesulfonamide | 9.5 mmole, 1.55 g | S1C(=CC=C1)S(=O)(=O)N | C4H5NO2S2
reactant | 3,4-dichlorophenyl isocyanate | 9.5 mmole, 1.79 g | ClC=1C=C(C=CC1Cl)N=C=O | C7H3Cl2NO
reactant | NaOH | 1N, 9.5 ml | [OH-].[Na+]
reactant | HCl | 1N, 9.5 ml | Cl | ClH
solvent | acetone | 25 ml | CC(=O)C | C3H6O
product | N-[[(3,4-dichlorophenyl)amino]carbonyl]-2-thiophenesulfonamide | 1.3 g | ClC=1C=C(C=CC1Cl)NC(=O)NS(=O)(=O)C=1SC=CC1 | C11H8Cl2N2O3S2
